US07592352B2
3-Bromo-5H-thieno[3,2-c]pyridin-4-one (1.0 g) and POCl3 (3 ml) was stirred for 1.5 hours at 120° C. After evaporation of POCl3, crushed ice was added to the residue and generated precipitate was collected by filtration to afford 3-bromo-4-chloro-thieno[3,2-c]pyridine (1.1 g) 1H NMR (400 MHz, DMSO-d6) ppm 8.31 (d, J=5.6 Hz, 1H), 5.27-8.21 (m, 2H).

reactant | 3-Bromo-5H-thieno[3,2-c]pyridin-4-one | 1.0 g | BrC1=CSC2=C1C(NC=C2)=O | C7H4BrNOS
reactant | POCl3 | 3 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 3-bromo-4-chloro-thieno[3,2-c]pyridine | 1.1 g | BrC1=CSC2=C1C(=NC=C2)Cl | C7H3BrClNS
